US05721234
Preparation of N-(5-bromo-6-nitro-2,3-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxalin-8-yl)acetamide
N-(5-Bromo-2,3-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxalin-8-yl)-acetamide (0.24 g, 0.7 mmol) was dissolved in trifluoroacetic acid (10 mL), cooled in an ice bath to 0° C., and then treated with fuming nitric acid (0.5 mL) and stirred for 4 h at 0° C. After removing the solvent by rotoevaporation, the syrupy residue was triturated with water and the resulting solid was collected by filtration, washed with water and then ether and dried in vacuo (0.22 g, 81% yield). Anal. calc'd for C13H11BrN4O5.H2O: C, 38.92; H, 3.27; N, 13.94. Found: C, 38.60; H, 3.00; N, 13.66.

reactant | N-(5-Bromo-2,3-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxalin-8-yl)-acetamide | 0.7 mmol, 0.24 g | BrC1=CC2=C(C=3NC(C(NC13)=O)=O)CC(C2)NC(C)=O | C13H12BrN3O3
reactant | nitric acid | 0.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-(5-bromo-6-nitro-2,3-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxalin-8-yl)acetamide | 81% yield | BrC1=C(C2=C(C=3NC(C(NC13)=O)=O)CC(C2)NC(C)=O)[N+](=O)[O-] | C13H11BrN4O5
